US06441017B1
Step C: 1-(tert-Butoxycarbonylamino)-7-(hydroxy)-2-(trimethylsilyl)naphthalene
To a stirred solution of 1-(tert-butoxycarbonylamino)-7-(triisopropylsilyloxy)-2-(trimethylsilyl)naphthalene, as described above in Step B, (9.72 g, 19.9 mmol) in THF (200 mL) at 0° C. was added TBAF (1.0 M in THF, 20.9 mL, 20.9 mmol). The resulting mixture was stirred at 0° C. for 15 min then poured into dilute aqueous NH4Cl (250 mL) and extracted with CH2Cl2 (500 mL). The organic extract was dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by flash column chromatography on silica, eluting with CH2Cl2—10% EtOAc to yield the desired product.

reactant | 1-(tert-butoxycarbonylamino)-7-(triisopropylsilyloxy)-2-(trimethylsilyl)naphthalene | C(C)(C)(C)OC(=O)NC1=C(C=CC2=CC=C(C=C12)O[Si](C(C)C)(C(C)C)C(C)C)[Si](C)(C)C | C27H45NO3Si2
reactant | TBAF | 20.9 mmol, 1.0 M, 20.9 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | NH4Cl | 250 mL | [NH4+].[Cl-]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 1-(tert-Butoxycarbonylamino)-7-(hydroxy)-2-(trimethylsilyl)naphthalene | C(C)(C)(C)OC(=O)NC1=C(C=CC2=CC=C(C=C12)O)[Si](C)(C)C | C18H25NO3Si
